US07230098B2
To a solution of 5-(4-amino-phenyl)-3-(2,6-dichloro-benzyloxy)-pyridin-2-ylamine (100 mg, 0.28 mmol) in acetonitrite (3 mL) at 0° C., was added pyridine (0.035 mL, 1.5 eq.) and acetic anhydride (0.03 mL, 0.28 mmol). The mixture was stirred at room temperature over night, and the precipitate was filtered to provide N-{4-[6-amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-phenyl) acetamide as a white solid.

reactant | 5-(4-amino-phenyl)-3-(2,6-dichloro-benzyloxy)-pyridin-2-ylamine | 0.28 mmol, 100 mg | NC1=CC=C(C=C1)C=1C=C(C(=NC1)N)OCC1=C(C=CC=C1Cl)Cl | C18H15Cl2N3O
reactant | pyridine | 0.035 mL, 1.5 eq. | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.28 mmol, 0.03 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-{4-[6-amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-phenyl) acetamide | NC1=C(C=C(C=N1)C1=CC=C(C=C1)NC(C)=O)OCC1=C(C=CC=C1Cl)Cl | C20H17Cl2N3O2
